datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21]C)[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]2.CC[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C([H])[CH](C)[S]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)[O][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"[H][S+:10](C([H])C(C)C([H])[O]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C([H])[O][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(CC)C([H])[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(CC)C([H])[O]2.C[S:10][H] 21=20;20,10=10"
"[OH:21][C:20]1(C)[OH+:10]C(C)C(C)C1C>>[OH:10]C(C)C(C)C([C:20](C)=[OH+:21])C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([O:21]C)([S][H])[S]C.[Cl-]>>[Cl-].[H][O:10][H].C[O+:21]=[C:20]([S][H])[S]C 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)CC>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC.[O-:21]C 10=20;20,21=21"
"[H][O:10]C([H])C([H])[NH][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[NH:10](C)C(C)C([H])/C([H])=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C([H])C([H])C(C)[NH+:10]1(C) 10=20;20,21=21"
"[NH:10]([H])C([H])C(C)/C([H])=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C([H])C(C)C([H])[NH+:10]1([H]) 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21][H])([O]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][NH+:21]=[C:20]([O]C)[NH]C7=CC=CC=C7 21=20;20,10=10"
"[H][NH:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CC)C1=CC=CC=C1>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)CC.[O-:21]CCCCCC>>CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)CC)CC 21=20;20,10=10"
"[H][O+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(CC)[NH][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"[O:10]([Na])C([H])C([H])C(O)C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C(O)C([H])C([H])[O+:10]1([Na]) 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH]([H])[CH](C)C(C)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C(C)[CH](C)[S]1 10=20;20,21=21"
"[O:10]([Na])C(CC)/C(O)=C([C:20](C)=[O:21])/[H]>>[O-:21][C:20]1(C)[O+:10]([Na])C(CC)C(O)=C1[H] 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C)CC)C.[O-:21]CC>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21]CC)CC)C 21=20;20,10=10"
"C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[S][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[S][H] 10=20;20,21=21"
"[H][S+:10](C([H])C(C)C([H])[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C([H])[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(CC)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[OH:10]C(C(C1=C(C=CC=C1)[CH:20](C)=[OH+:21])[H])C>>[OH:21][CH:20]2(C)C3=C(C(C([OH+:10]2)C)[H])C=CC=C3 10=20;20,21=21"
